US06169107A
Preparation of methyl 1-methyl-6-indolecarboxylate
The title compound was prepared in a manner similar to Reference Example 5 (23) except that 2-(4-iodobutoxy)tetrahydropyran and ethyl 4-chloro-2-indolecarboxylate was used in place of 2-(2-iodoethoxy)tetrahydropyran and methyl 2-indolecarboxylate.

reactant | 2-(4-iodobutoxy)tetrahydropyran | ICCCCOC1OCCCC1 | C9H17IO2
reactant | ethyl 4-chloro-2-indolecarboxylate | ClC1=C2C=C(NC2=CC=C1)C(=O)OCC | C11H10ClNO2
reactant | methyl 2-indolecarboxylate | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
product | methyl 1-methyl-6-indolecarboxylate | CN1C=CC2=CC=C(C=C12)C(=O)OC | C11H11NO2
